US05034417
A solution of 2-{3-[N-methyl-N-(2,4-difluorophenyl)amino]-4-nitrophenyl}-2-methyl-1,3-dioxolane (6.6 g) and 3N-hydrochloric acid (60 ml) in acetone (120 ml) was stirred at room temperature overnight and evaporated. The residue was dissolved in ethyl acetate, washed with water and an aqueous solution of sodium bicarbonate, and concentrated to dryness. A mixture of the residual oil (5.3 g), iron powder (5 g) and ammonium chloride (0.5 g) in ethanol (120 ml) and water (60 ml) was stirred and refluxed for 1 hour. The mixture was filtered and the filtrate was evaporated. The residue was purified by column chromatography on silica gel eluting with a mixture of toluene and ethyl acetate (20:1) to give crystals of 4'-amino-3'-[N-methyl-N-(2,4-difluorophenyl)amino]acetophenone (1.1 g).

reactant | 2-{3-[N-methyl-N-(2,4-difluorophenyl)amino]-4-nitrophenyl}-2-methyl-1,3-dioxolane | 6.6 g | CN(C1=C(C=C(C=C1)F)F)C=1C=C(C=CC1[N+](=O)[O-])C1(OCCO1)C | C17H16F2N2O4
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | 4'-amino-3'-[N-methyl-N-(2,4-difluorophenyl)amino]acetophenone | 1.1 g | NC1=C(C=C(C=C1)C(C)=O)N(C1=C(C=C(C=C1)F)F)C | C15H14F2N2O
